US07700599B2
1,1-Dimethylethyl (2S)-4-({4-[({5-[(4-fluorophenyl)amino]-2-pyridinyl}carbonyl)(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D76)
The title compound was prepared 1,1-dimethylethyl (2S)-4-({4-[[(5-bromo-2-pyridinyl)carbonyl](methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D72) and 4-fluoroaniline using a method similar to that described for D58 in Description 58 although the reaction time was 18 h. MS (ES): MH+ 534.2.

reactant | 1,1-dimethylethyl (2S)-4-({4-[[(5-bromo-2-pyridinyl)carbonyl](methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | BrC=1C=CC(=NC1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C24H31BrN4O3
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | 1,1-Dimethylethyl (2S)-4-({4-[({5-[(4-fluorophenyl)amino]-2-pyridinyl}carbonyl)(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | FC1=CC=C(C=C1)NC=1C=CC(=NC1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C30H36FN5O3
